US04877881
4-Acetoxy-3-methoxycinnamaldehyde (2.0 g, 9.1×10-3M) is dissolved in methanol 100 ml) and cooled to 0° C. with an ice/water bath. Hydroxylamine hydrochloride (0.8 g, 1.2×10-2M) is added with sodium acetate (0.97 g, 1.2×10-2M) and stirred for one hour. The reaction mixture is concentrated to near dryness, and redissolved in ethyl acetate (150 ml). The residual organics are washed twice with water dried over sodium sulfate, filtered, evaporated to dryness, and chromatographed on flash silica using hexane:ethyl acetate 3:1 to afford 1.45 g of 4-acetoxy-3-methoxycinnamaldehyde oxime in 68% yield; mp=72°-74° C.

reactant | 4-Acetoxy-3-methoxycinnamaldehyde | 9.1×10-3M, 2.0 g | C(C)(=O)OC1=C(C=C(C=CC=O)C=C1)OC | C12H12O4
reactant | Hydroxylamine hydrochloride | 1.2×10-2M, 0.8 g | Cl.NO
reactant | sodium acetate | 1.2×10-2M, 0.97 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-acetoxy-3-methoxycinnamaldehyde oxime | 1.45 g, 68% yield | C(C)(=O)OC1=C(C=C(C=CC=NO)C=C1)OC | C12H13NO4
